US09381191B2
5 g (30 mmol) of 2-(chloromethyl)imidazo[1,2-a]pyridine were solubilised in 60 ml of acetonitrile with magnetic stirring, 7.31 g (31.5 mmol) of N-iodosuccinimide were added and the mixture was stirred at r.t. for 15 min. The solid formed was isolated by filtration, washed with 30 ml of water and dried in a vacuum bell jar. 8.46 g (yield=95%) of 2-(chloromethyl)-3-iodoimidazo[1,2-a]pyridine were obtained as a white solid. LC-MS: m/z=293 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.31 (d, J=6.9 Hz, 1H), 7.58 (d, J=9.1 Hz, 1H), 7.46-7.29 (m, 1H), 7.07 (td, J=6.8, 1.0 Hz, 1H), 4.81 (s, 2H).

reactant | 2-(chloromethyl)imidazo[1,2-a]pyridine | 30 mmol, 5 g | ClCC=1N=C2N(C=CC=C2)C1 | C8H7ClN2
reactant | N-iodosuccinimide | 31.5 mmol, 7.31 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-(chloromethyl)-3-iodoimidazo[1,2-a]pyridine | 8.46 g, yield=95% | ClCC=1N=C2N(C=CC=C2)C1I | C8H6ClIN2
